US07176216B2
tert-Butyl N-(7-bromo-2-methylpyrazolo[1,5-a]pyridin-3-yl)carbamate
To a solution of the obtained [7-bromo-2-methylpyrazolo[1,5-a]pyridin-3-yl]amine and triethylamine (0.342 mL) dissolved in dichloromethane was added di-tert-butyl dicarbonate (429 mg) while cooling with ice, and the reaction mixture was stirred for 15 hours at room temperature. Water was added to the obtained reaction mixture, extraction was performed with ethyl acetate, and the organic extract was washed with water and brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (420 mg) was obtained as an ecru oil from the n-hexane:ethyl acetate (5:1) fraction.

reactant | [7-bromo-2-methylpyrazolo[1,5-a]pyridin-3-yl]amine | BrC1=CC=CC=2N1N=C(C2N)C | C8H8BrN3
reactant | triethylamine | 0.342 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 429 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl N-(7-bromo-2-methylpyrazolo[1,5-a]pyridin-3-yl)carbamate | 420 mg | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)C | C13H16BrN3O2
